US06440401B1
108 parts of o-phenylenediamine are introduced into 500 parts of H2SO4 (>96%) and then 800 parts of oleum (65%) are added dropwise, the temperature being maintained at a maximum of 120° C. After 15 min, the mixture is cooled to 70° C. and 120 parts of benzoic acid are added. The mixture is heated for 2 h at 180° C. The mixture is slowly hydrolysed with 2 500 parts of water, the temperature being maintained below 10° C. The precipitate (crystals) is filtered off with suction, the crude product is suspended in 8 parts of water and dissolved with 32% sodium hydroxide solution at pH=7. The solution is stirred with activated carbon until colorless, and thereafter precipitation is induced using 96% H2SO4 by establishing a pH=1-2. 300 parts of 2-phenylbenzimidazole-4,6-disulfonic acid are obtained. The compound has an absorption maximum in the UV-B region at λmax=308 nm.

reactant | o-phenylenediamine | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | oleum | OS(=O)(=O)O.O=S(=O)=O
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | water | O | H2O
product | 2-phenylbenzimidazole-4,6-disulfonic acid | C1(=CC=CC=C1)C=1NC2=C(N1)C=C(C=C2S(=O)(=O)O)S(=O)(=O)O | C13H10N2O6S2
